US08212045B2
To a solution of (S)-methyl 2,2-dimethyl-1,3-dioxolane-4-carboxylate (1.3 g, 8.1 mmol) and chloroiodomethane (4.3 g, 24 mmol) in THF (50 mL) at −78° C. was added a solution of LDA (16.2 mL, 24 mmol) in portions over 10 minutes. The reaction was stirred at −78° C. After addition, the slurry was warmed to ambient temperature. The reaction was poured into EtOAc (200 mL) and the aqueous layer basified using 1 N NaOH. The organics were separated and washed with brine, dried over MgSO4 and concentrated in vacuo. The material was purified by chromatography using DCM as eluent to give (S)-2-chloro-1-(2,2-dimethyl-1,3-dioxolane-4-yl)ethanone (0.60 g, 3.4 mmol, 42% yield) as an oil.

reactant | (S)-methyl 2,2-dimethyl-1,3-dioxolane-4-carboxylate | 8.1 mmol, 1.3 g | CC1(OC[C@H](O1)C(=O)OC)C | C7H12O4
reactant | chloroiodomethane | 24 mmol, 4.3 g | ClCI | CH2ClI
reactant | LDA | 24 mmol, 16.2 mL | [Li+].CC(C)[N-]C(C)C
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | (S)-2-chloro-1-(2,2-dimethyl-1,3-dioxolane-4-yl)ethanone | 3.4 mmol, 0.60 g, 42% yield | ClCC(=O)[C@H]1OC(OC1)(C)C | C7H11ClO3
